US07834051B2
2-chloro-4-[(2S,3S,4S)-3-hydroxy-2-methyl-4-(2-methylprop-2-en-1-yl)-5-oxopyrrolidin-1-yl]benzonitrile
A solution of diisopropylamine (0.300 mL) in THF (15 mL) was cooled to −78° C., and n-butyllithium-hexane solution (1.26 mL, 1.6 mol/L) was added dropwise. After the completion of the dropwise addition, the mixture was stirred at −78° C. for 1 hr. Subsequently, a solution of 2-chloro-4-[(2S,3S)-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile (200 mg) in THF (4.0 mL) was added dropwise, and the mixture was further stirred at −78° C. for 1 hr. 3-Bromo-2-methylpropene (0.10 mL) was added dropwise at −78° C., and the mixture was further stirred at −78° C. to −10° C. for 1 hr. Acetic acid (1.0 mL) was added to the reaction mixture, and the mixture was warmed to room temperature. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1→1/2) to give the title compound as a colorless solid (yield: 111.8 mg, 46.1%).

reactant | diisopropylamine | 0.300 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-chloro-4-[(2S,3S)-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile | 200 mg | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H](CC1=O)O)C | C12H11ClN2O2
reactant | 3-Bromo-2-methylpropene | 0.10 mL | BrCC(=C)C | C4H7Br
reactant | Acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-chloro-4-[(2S,3S,4S)-3-hydroxy-2-methyl-4-(2-methylprop-2-en-1-yl)-5-oxopyrrolidin-1-yl]benzonitrile | yield: 111.8 mg, 46.1% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H]([C@@H](C1=O)CC(=C)C)O)C | C16H17ClN2O2
